US07323475B2
a) (5-Bromo-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetic acid ethyl ester
Bromophthalimide (35 g, 155 mmol) and bromoethylacetate (31 g, 186 mmol) were dissolved in 700 ml of acetone. Potassium carbonate (64.2 g, 465 mmol) was added and resulting suspension was stirred at reflux for 18 h. After cooling, the mixture was filtered. Filtrate was evaporated to give 48.12 g (154 mmol) of solid product. 1H NMR (200 MHz, CDCl3) δ 8.00 (s, 1H), 7.89 (d, J=7.8 Hz, 1H), 7.73 (d, J=7.8 Hz, 1H), 4.41 (s, 2H), 4.21 (q, J=7.0 Hz, 2H), 1.28 (t, J=7.0 Hz, 3H).

reactant | Bromophthalimide | 155 mmol, 35 g | BrC1=C2C(C(=O)NC2=O)=CC=C1 | C8H4BrNO2
reactant | bromoethylacetate | 186 mmol, 31 g | BrCCOC(C)=O | C4H7BrO2
reactant | Potassium carbonate | 465 mmol, 64.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 700 ml | CC(=O)C | C3H6O
product | (5-Bromo-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetic acid ethyl ester | 154 mmol, 48.12 g | C(C)OC(CN1C(C2=CC=C(C=C2C1=O)Br)=O)=O | C12H10BrNO4
